US04220658
A mixture of 32 g (0.1 mole) of 1-(2,6-dichlorophenyl)3-(t-butylcarbamyl)thiourea and 200 ml of conc. hydrochloric acid is refluxed for 1/2 hour. The reaction mixture is cooled, filtered and washed with 10 ml of 1:1 HCl/H2O and dried. The product is then recrystallized from ethanolether to obtain 1-(2,6-dichlorophenyl)-3-carbamylthiourea.

reactant | 1-(2,6-dichlorophenyl)3-(t-butylcarbamyl)thiourea | 0.1 mole, 32 g | ClC1=C(C(=CC=C1)Cl)NC(=S)NC(NC(C)(C)C)=O | C12H15Cl2N3OS
solvent | hydrochloric acid | 200 ml | Cl | ClH
product | 1-(2,6-dichlorophenyl)-3-carbamylthiourea | ClC1=C(C(=CC=C1)Cl)NC(=S)NC(N)=O | C8H7Cl2N3OS
